US08492371B2
N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-5-chloro-2-methoxybenzamide
To a solution of 2-amino-5-tert-butyl-1,3,4-thiadiazole (Aldrich) (2.5 g, 16.3 mmol) in tetrahydrofuran (30 mL) were added 5-chloro-2-methoxybenzoic acid (Aldrich) (3.65 g, 19.6 mmol), triethylamine (5.5 mL, 39.5 mmol), and 1-propanephosphonic acid cyclic anhydride 50% solution in ethyl acetate (Aldrich) (11.6 mL, 19.6 mmol). The reaction mixture was stirred at about room temperature for 14 hours, cooled with external ice bath while quenching with saturated aqueous NaHCO3 (20 mL). The aqueous layer was extracted with ethyl acetate (2×40 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography using an Analogix® Intelliflash280™ (SiO2, 0-100% ethyl acetate in hexanes) to afford 4.65 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.43 (s, 9H), 3.88 (s, 3H), 7.22 (d, J=8.7 Hz, 1H), 7.55-7.64 (m, 2H), 12.41 (s, 1H); MS (ESI+) m/z 326 (M+H)+.

reactant | 2-amino-5-tert-butyl-1,3,4-thiadiazole | 16.3 mmol, 2.5 g | NC=1SC(=NN1)C(C)(C)C | C6H11N3S
reactant | 5-chloro-2-methoxybenzoic acid | 19.6 mmol, 3.65 g | ClC=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO3
reactant | triethylamine | 39.5 mmol, 5.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | ethyl acetate | 19.6 mmol, 11.6 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-5-chloro-2-methoxybenzamide | 4.65 g | C(C)(C)(C)C1=NN=C(S1)NC(C1=C(C=CC(=C1)Cl)OC)=O | C14H16ClN3O2S
